US06916837B2
The compound (t-butyl 2-fluoro-5-nitrobenzoate) (1.74 g) obtained in a previous production example, 6-cyano-2-naphthol (1.86 g) and potassium carbonate (8.2 g) were heated to 50° C. in N,N-dimethylformamide and reacted for 2 hours. After cooling to room temperature, water was added and extraction was performed with ethyl acetate. The ethyl acetate layer was washed with saturated saline and dried over magnesium sulfate, and the solvent was distilled off. The residue was purified by silica gel chromatography (300 g, hexane:ethyl acetate=5:1) to obtain 3.23 g of t-butyl 2-(6-cyano-2-naphthyloxy)-5-nitrobenzoate.

reactant | t-butyl 2-fluoro-5-nitrobenzoate | FC1=C(C(=O)OC(C)(C)C)C=C(C=C1)[N+](=O)[O-] | C11H12FNO4
reactant | 6-cyano-2-naphthol | 1.86 g | C(#N)C=1C=C2C=CC(=CC2=CC1)O | C11H7NO
reactant | potassium carbonate | 8.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | t-butyl 2-(6-cyano-2-naphthyloxy)-5-nitrobenzoate | 3.23 g | C(#N)C=1C=C2C=CC(=CC2=CC1)OC1=C(C(=O)OC(C)(C)C)C=C(C=C1)[N+](=O)[O-] | C22H18N2O5
